US06414011B1
2-{3-[4-(4-Fluorophenoxy)phenyl]-pyrazol-1-yl}-pyrimidine
To a solution of 3-[4-(4-fluorophenoxy)phenyl]-1H-pyrazole (930 mg, 3.66 mmol) in 15 mL of dry THF was slowly added 240 mg (6.00 mmol) of NaH. After stirring at room temperature for 20 minutes, 500 mg (4.15 mmol) of 2-chloropyrimidine was added in one portion. The reaction was allowed to stir overnight at room temperature and concentrated to dryness. The residue was dissolved in CHCl3 and subjected to flash chromatography. Elution with 3:2 hexane/EtOAc gave 994 mg of the title compound as a solid, mp 123-125° C. 1H NMR (CDCl3): δ8.77 (d, 2H, J=4.8 Hz), 8.65 (d, 1H, J=3.0 Hz), 7.95 (d, 2H, J=8.7 Hz), 7.20 (t, 1H, J=4.9 Hz), 7.07-6.98 (m, 5H), 6.78 (d, 1H, J=3.0 Hz).

reactant | 3-[4-(4-fluorophenoxy)phenyl]-1H-pyrazole | 3.66 mmol, 930 mg | FC1=CC=C(OC2=CC=C(C=C2)C2=NNC=C2)C=C1 | C15H11FN2O
reactant | NaH | 6.00 mmol, 240 mg | [H-].[Na+]
reactant | 2-chloropyrimidine | 4.15 mmol, 500 mg | ClC1=NC=CC=N1 | C4H3ClN2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-{3-[4-(4-Fluorophenoxy)phenyl]-pyrazol-1-yl}-pyrimidine | 994 mg | FC1=CC=C(OC2=CC=C(C=C2)C2=NN(C=C2)C2=NC=CC=N2)C=C1 | C19H13FN4O
